US04435571
N-[N-(t-Butoxycarbonyl)glycyl]-L-phenylalanine methyl ester (6a)
t-Boc-glycine (1.75 g, 1.00 ×10-2 mole), L-phenylalanine methyl ester hydrochloride (2.16 g, 1.00 ×10-2 mole), and N-ethoxycarbonyl-2-ethoxy-1,2-dihydroquinoline (2.47 g, 1.00 ×10-2 mole), and CH2Cl2 (50 ml) are stirred at room temperature for 16 hours. The reaction mixture is then washed in turn with 0.5M aqueous HCl (2 times) and saturated aqueous NaHCO3 before being dried over Na2SO4. Filtration of the drying agent and evaporation of the filtrate gives 6as an extremely viscous, almost colorless oil, which was shown to be homogeneous by TLC on silica gel plates and the structure corroborated by NMR. NMR (CDCl3) δ1.42 (S, 9, t-boc), 3.02 (d,2, benzylic methylene), 3.59 (S, 3, ester), 7.13 (S, 5, aromatic).

reactant | t-Boc-glycine | 1.00 ×10-2 mole, 1.75 g | CC(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | L-phenylalanine methyl ester hydrochloride | 1.00 ×10-2 mole, 2.16 g | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | N-ethoxycarbonyl-2-ethoxy-1,2-dihydroquinoline | 1.00 ×10-2 mole, 2.47 g | C(C)OC(=O)N1C(C=CC2=CC=CC=C12)OCC | C14H17NO3
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | N-[N-(t-Butoxycarbonyl)glycyl]-L-phenylalanine methyl ester | COC([C@@H](NC(CNC(=O)OC(C)(C)C)=O)CC1=CC=CC=C1)=O | C17H24N2O5
